US09328117B2
Thionyl chloride (2.0 mL) was added dropwise to a solution of 6-chloro-3-methyl-[1,2,4]triazolo[4,3-b]pyridazine-8-carboxylic acid (4.0 g, 18.5 mmol) in MeOH (100 mL) under cooling in an ice bath. The resulting mixture was stirred at 80° C. for more than 16 h. The reaction mixture was then cooled to room temperature and concentrated, and the crude product was purified by flash chromatography (silica gel, 1% to 10% MeOH in CH2Cl2) to give the methyl 6-chloro-3-methyl-[1,2,4]triazolo[4,3-b]pyridazine-8-carboxylate as a yellow solid (3.0 g, 72% yield). 1H NMR (300 MHz, CD3OD): δ 7.92 (s, 1H), 4.07 (s, 3H), 2.79 (s, 3H). LRMS [M+H]+: 226 m/z.

reactant | Thionyl chloride | 2.0 mL | S(=O)(Cl)Cl | Cl2OS
reactant | 6-chloro-3-methyl-[1,2,4]triazolo[4,3-b]pyridazine-8-carboxylic acid | 18.5 mmol, 4.0 g | ClC=1C=C(C=2N(N1)C(=NN2)C)C(=O)O | C7H5ClN4O2
reactant | MeOH | 100 mL | CO | CH4O
product | methyl 6-chloro-3-methyl-[1,2,4]triazolo[4,3-b]pyridazine-8-carboxylate | 3.0 g, 72% yield | ClC=1C=C(C=2N(N1)C(=NN2)C)C(=O)OC | C8H7ClN4O2
